data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(=C[CH2:20][Br:21])C.C1=CC2=C(C=C1)[N-:10]C3=C2C=CC=C3>>CC(=C[CH2:20][N:10]1C2=C(C=CC=C2)C3=C1C=CC=C3)C.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(C1=CC(=C(C(=C1)OC)C(=O)C2=C(C=CC=C2C#N)OC)OC)(C(Br)(Br)Br)[O-].[OH-:10].[Na+].[Br-]>>COC1=C(C(=CC=C1)C#N)C(=O)C2=C(C=C(C=C2OC)C(C(Br)(Br)Br)([O-:21])[O-])OC.[H:20][OH:10].[Na+].[Br-] 10=20;20,21=21
[H:20][C:21]1(C=CC(=C([CH+:22]1)[NH+](C)C)Br)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[NH+](C)C1=C(C=C[C:21](=[CH:22]1)S(=O)(=O)O)Br 10=20;20,21=21,22
[H:20][OH:21].CC[O-:10].CCCC[N+](CCCC)(CCCC)CCCC.CCO.C[Si](C)(C)O[Si](C)(C)C>>[H:20][O:10]CC.[OH-:21].CCCC[N+](CCCC)(CCCC)CCCC.CCO.C[Si](C)(C)O[Si](C)(C)C 10=20;20,21=21
[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.[N:20](=[O:10])[OH2+:21].O>>[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4N)OC.[N:20]#[O+:10].[OH2:21].O 10=20;20,21=21
CCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC3CCCCC3)O>>CCC1=CC=C[N:21]=C1.C1CCC(CC1)OCC2C(C[CH:20]=[O+:10]2)O 10=20;20,21=21
[H:20][O:21]C.C1CCC2(C1)C(CCCO2)(C#N)[O-:10]>>[H:20][O:10]C1(CCCOC12CCCC2)C#N.C[O-:21] 10=20;20,21=21
[H:20][N+:21]1(CCCC1)C2(C=C(N(C3=C2C(=O)C(=CN3C)C(=O)OC)C)[O-])Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CN1C=C(C(=O)C2=C1N(C(=CC2([N:21]3CCCC3)Cl)[O-])C)C(=O)OC 10=20;20,21=21
[H:20][C:21]1(C=C(C=C([C+:22]1OC(=O)CC)Br)Br)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)O[C:22]1=[C:21](C=C(C=C1Br)Br)Br 10=20;20,21=21,22
CC[OH:10].CC[O+:21]=[C:20](C)C>>CC[OH+:10][C:20](C)(C)[O:21]CC 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CC=CC[O-:10]>>[H:20][O:10]CC=CC.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CCC1CC(=[N:10]C2=CC=CC=C12)O>>[H:20][N+:10]1=C(CC(C2=CC=CC=C21)CC)O.CC[N:21](CC)CC 10=20;20,21=21
[H:10][BH2-:11]C#N.CC[NH+:21]=[C:20](C)C>>[H:10][C:20](C)(C)[NH:21]CC.[BH2:11]C#N 10,11=10,20;20,21=21
[H:20][OH+:21]C(CCC1=C(C=NC=N1)Br)OCCCO.C(=O)[O-:10].O>>[H:20][O:10]C=O.C1=NC=NC(=C1Br)CCC([OH:21])OCCCO.O 10=20;20,21=21
[H:10][AlH3-:11].[Li][O+:21]=[C:20](CCC)CCC>>[H:10][C:20](CCC)(CCC)[O:21][Li].[AlH3:11] 10,11=10,20;20,21=21
C[S-:10].C[S:20][S:21]C>>C[S-:21].C[S:10][S:20]C 10=20;20,21=21
CC(=C[NH2:10])C(CCC(=O)OC)[C:20](=[O:21])C.C(=O)(O)[O-].[NH4+].O>>CC1=C[NH2+:10][C:20](C1CCC(=O)OC)(C)[O-:21].C(=O)(O)[O-].[NH4+].O 10=20;20,21=21
[H:20][O:21][CH:22]=[C:23]1C=CC(=N[C:24]1=[NH2+:25])N.[OH-:10].CCO.O.[Na+]>>[H:20][OH:10].C1=CC(=N[C:24](=[C:23]1[CH:22]=[O:21])[NH2:25])N.CCO.O.[Na+] 10=20;24,25=25;20,21=21,22;22,23=23,24
COC1=C(C(=C(C=C1)OC)Br)[CH:20]=[O+:21]CCCO.[OH2:10].C1CCOC1.[Cl-]>>COC1=C(C(=C(C=C1)OC)Br)[CH:20]([OH2+:10])[O:21]CCCO.C1CCOC1.[Cl-] 10=20;20,21=21
[H:20][C:21]1(C2=C(C=CC=C2)C3=C1C=CC=C3)COC(=O)NC(C(C)C)C(=O)NC.C1CC[NH:10]CC1.CN(C)C=O>>[H:20][NH+:10]1CCCCC1.CC(C)C(C(=O)NC)NC(=O)OC[C-:21]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O 10=20;20,21=21
CC[C:20](=[O:21])OC.[OH-:10]>>CC[C:20]([OH:10])([O-:21])OC 10=20;20,21=21
CC[O+:21]=[CH2:20].C[O:10][Si](C)(C)C>>CC[O:21][CH2:20][O+:10](C)[Si](C)(C)C 10=20;20,21=21
[H:20][OH+:21]P(O)(O)(O)Cl.[OH2:10]>>OP(O)(O)([OH:21])Cl.[H:20][OH2+:10] 10=20;20,21=21
[H:20][C:21]1(CCCC([C:22]1=[O:23])C)C(=O)OCC.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.CCOC(=O)[C:21]1=[C:22](C(CCC1)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][N+:21](C)(C)C.CC[OH+]S(=O)(=O)[CH2-:10]>>[H:20][CH2:10]S(=O)(=O)[OH+]CC.C[N:21](C)C 10=20;20,21=21
[H:20][NH2+:21]C(C)([O-])OC(=O)C.[OH2:10]>>[H:20][OH2+:10].CC(=O)OC(C)([NH2:21])[O-] 10=20;20,21=21
CCOC(=O)[N:20]=[N:21]C(=O)OCC.CC(C)CC1=C(C=CC=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O>>CCOC(=O)[N-:21][N:20](C(=O)OCC)[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=C(C=CC=C3)CC(C)C.CC(C)CCCCC(C(C(=O)O)OC1=CC=CC=C1)O 10=20;20,21=21
[H:20][O:21]C(C=C(C)C1=CC=CC=C1)(C2=[N+](N=C3N2C4C(CC5=C4C=CC=C5)OC3)C6=C(C(=C(C(=C6F)F)F)F)F)C(C7=CC=CC=C7)[C:10](=[C:11](C8=CC=CC=C8)[O-:12])C(=O)C.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1>>[H:20][C:10](C(C1=CC=CC=C1)C(C=C(C)C2=CC=CC=C2)(C3=[N+](N=C4N3C5C(CC6=C5C=CC=C6)OC4)C7=C(C(=C(C(=C7F)F)F)F)F)[O-:21])(C(=O)C)[C:11](=[O:12])C8=CC=CC=C8.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=CN.[OH2:10]>>[H:20][OH2+:10].C(=[O:21])N 10=20;20,21=21
CCC(C)[O-:10].[O:21]=[P:20](Cl)(Cl)Cl>>CCC(C)[O:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
[CH2:20]=[NH2+:21].[Cl-:10]>>[CH2:20]([NH2:21])[Cl:10] 10=20;20,21=21
CN(C)[Si-:10](C)(C)(C)[O+:11]=C>>CN(C)[Si:10](C)(C)C.C=[O:11] 10,11=11
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CC=C)C(C)CC2=CC=CC=C2.[F-:10]>>[H:20][F:10].CC(CC1=CC=CC=C1)[C:21]2=[CH:22][CH:23]=[C:24](C=C2)CC=C 10=20;20,21=21,22;22,23=23,24
CCCC(=[O+:11][Na:10])OCCC.[BH4-]>>CCCC(=[O:11])OCCC.[Na+:10].[BH4-] 10,11=11
[H:20][O:21]S(=O)(=O)O.CCC([N:10](C)C)OCC>>[H:20][N+:10](C)(C)C(CC)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](C(C(=O)C)C(=O)OCC)[C:22](=[NH+:23]C)C.C[NH2:10].O>>[H:20][NH2+:10]C.CCOC(=O)C([CH:21]=[C:22](C)[NH:23]C)C(=O)C.O 10=20;22,23=23;20,21=21,22
CC[OH+:21][C:20](CCC#N)(O)[OH:10]>>CC[OH:21].C(C[C:20](=[OH+:10])O)C#N 10=20;20,21=21
C[C:10]1(C(=CCO1)O)[OH+:11]C>>C[C+:10]1C(=CCO1)O.C[OH:11] 10,11=11
